US06124413
To a solution of 30 ml (0.26 moles) of indene in 250 ml of THF, 105 ml is added (0.26 moles) of 2.5 M BuLi in hexane, with temperature being kept comprised within the range of from 30° C. to 40° C. The reaction mixture is then cooled down to -70° C. and 19 ml (0.25 moles) of ethyl bromide is added dropwise during approximately 3 hours. The temperature is allowed to rise up to approximately 20-25° C. and then the mixture is hydrolysed with water and extracted with petroleum ether. After washing until neutral, drying and evaporation of the organic phase, the obtained residue is distilled. The fraction boiling at 92-95° C./30 mm Hg is collected, and 28 g of 1-ethylindene is obtained (yield 78%)

reactant | indene | 0.26 moles, 30 ml | C1C=CC2=CC=CC=C12 | C9H8
reactant | BuLi | 0.26 moles, 2.5 M | [Li]CCCC
reactant | ethyl bromide | 0.25 moles, 19 ml | C(C)Br | C2H5Br
reactant | water | O | H2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-ethylindene | 28 g, yield 78% | C(C)C1C=CC2=CC=CC=C12 | C11H12
